US04246263
Alpha-(4-Picolylthio)acetophenone
Under a nitrogen atmosphere, sodium methoxide (0.81 g., 15 mmoles) was dissoled in 17.9 ml. of stirring absolute ethanol, and cooled in an ice bath. 4-Picolyl mercaptan (1.88 g., 15 mmoles) in 3 ml. of absolute ethanol was added dropwise over approximately 5 minutes, followed by alpha-bromoacetophenone (3.05 g., 15 mmoles) in 10 ml. of warm absolute ethanol added over approximately 10 minutes. The stirring reaction mixture was warmed to room temperature and left to stir for 17 hours. Salts were removed by filtration through diatomaceous earth, and the solids repulped for 0.5 hour with additional ethanol and refiltered. The ethanol filtrates were combined and concentrated to yield a waxy solid. The waxy solid was taken up in approximately 11 volumes of diethyl ether, treated with activated carbon, filtered and the mother liquor concentrated to a solid (1.90 g.). Recrystallization from diethyl ether/hexane gave purified alpha-(4-picolylthio)acetophenone (1.25 g. in two crops, m.p. 55°-59° C., ir (KBr): 5.92, 6.18, 7.00, 7.76, 9.78, 12.38, 13.70μ).

reactant | sodium methoxide | 15 mmoles, 0.81 g | C[O-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | 4-Picolyl mercaptan | 15 mmoles, 1.88 g | N1=CC=C(C=C1)CS | C6H7NS
reactant | alpha-bromoacetophenone | 15 mmoles, 3.05 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | diethyl ether | C(C)OCC | C4H10O
product | Alpha-(4-Picolylthio)acetophenone | N1=CC=C(C=C1)CSCC(=O)C1=CC=CC=C1 | C14H13NOS
